US06015824
A solution of (1RS,6RS,8aSR)-1-(4-Benzyloxy-phenyl)-6-phenethyl-tetrahydro-pyrrolo[2, 1-c][1,4]oxazin-4-one (0.12 g, 0.28 mmol) in THF (1 ml) was added dropwise to a 0° C. suspension of LiAlH4 (0.021 g, 0.56 mmol) in THF (1 ml). Reaction mixture was stirred at room temperature for 2 hours then cooled to 0° C. and treated successively with H2O (25 ml), 5N NaOH (25 ml), H2O (75 ml). Reaction mixture was stirred at room temperature for 30 min. and Na2SO4 was added. After filtration, evaporation of the solvent provided (1RS,6RS,8aSR)-1-(4-benzyloxy-phenyl)-6-phenethyl-hexahydro-pyrrolo[2,1-c][1,4]oxazine (90 mg, 78%) as a colorless oil. MS: m/e=414.5 (M+H+). Following the general method of example 40 the compound of example 41 was prepared.

reactant | (1RS,6RS,8aSR)-1-(4-Benzyloxy-phenyl)-6-phenethyl-tetrahydro-pyrrolo[2, 1-c][1,4]oxazin-4-one | 0.28 mmol, 0.12 g | C(C1=CC=CC=C1)OC1=CC=C(C=C1)C1OCC(N2C1CCC2CCC2=CC=CC=C2)=O | C28H29NO3
reactant | LiAlH4 | 0.56 mmol, 0.021 g | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | NaOH | 5N, 25 ml | [OH-].[Na+]
reactant | Na2SO4 | [O-]S(=O)(=O)[O-].[Na+].[Na+]
solvent | THF | 1 ml | C1CCOC1 | C4H8O
solvent | THF | 1 ml | C1CCOC1 | C4H8O
solvent | H2O | 75 ml | O | H2O
solvent | H2O | 25 ml | O | H2O
product | (1RS,6RS,8aSR)-1-(4-benzyloxy-phenyl)-6-phenethyl-hexahydro-pyrrolo[2,1-c][1,4]oxazine | 90 mg, 78% | C(C1=CC=CC=C1)OC1=CC=C(C=C1)C1OCCN2C1CCC2CCC2=CC=CC=C2 | C28H31NO2
